US09120785B2
Trifluoroacetic acid (0.4 mL, 5.19 mmol) was added to a solution of tert-butyl 3-{1-hydroxy-1-[5-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}pyridin-2-yl)-1,3-thiazol-2-yl]ethyl}pyrrolidine-1-carboxylate (100 mg, 0.182 mmol) in dichloromethane (0.8 mL). The mixture was stirred at room temperature for 16 hours then concentrated under reduced pressure. The residue was purified on reverse phase HPLC (Sunfire prep C18 OBD 5 uM, acetonitrile/water+0.1% TFA) to afford 1-[5-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}pyridin-2-yl)-1,3-thiazol-2-yl]-1-(pyrrolidin-3-yl)ethanol as a 1:1 mix of diastereomers. MS ESI calc'd. for C21H22F3N5OS [M+H]+ 450. found 450. 1H NMR (500 MHz, CD3OD) δ 8.55 (d, J=5.6 Hz, 1H), 8.37 (d, 11-1, two singlets from two diastereomers), 8.12 (s, 1H), 7.46 (s, 1H), 7.37 (d, J=5.5 Hz, 1H), 7.05 (s, 1H), 3.58-2.95 (m, 5H, two sets of peaks from two diastereomers), 2.45 (s, 3H), 2.30-1.79 (m, 2H, two sets of peaks from two diastereomers), 1.69 (d, 3H, two singlets from two diastereomers). rhSyk activity=+++.

reactant | Trifluoroacetic acid | 5.19 mmol, 0.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-{1-hydroxy-1-[5-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}pyridin-2-yl)-1,3-thiazol-2-yl]ethyl}pyrrolidine-1-carboxylate | 0.182 mmol, 100 mg | OC(C)(C=1SC(=CN1)C1=NC(=CC(=C1)C)NC1=NC=CC(=C1)C(F)(F)F)C1CN(CC1)C(=O)OC(C)(C)C | C26H30F3N5O3S
solvent | dichloromethane | 0.8 mL | ClCCl | CH2Cl2
product | 1-[5-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}pyridin-2-yl)-1,3-thiazol-2-yl]-1-(pyrrolidin-3-yl)ethanol | CC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C1=CN=C(S1)C(C)(O)C1CNCC1 | C21H22F3N5OS
